* Circuit :
* Colpitts Amplification Part
* Transistor based (2N2222)
.include 2N2222.mod
Vcc A 0 DC=15
RB2 A B 150k
RB1 B 0 22k
Cde B 0 100n
Q1 C B E 2N2222 ;
RE E 0 1040
RC A C 5.6k
.op